US04487930
To a refluxing solution of 15.0 g of 6-[2-(1-pyrrolidinyl)ethylamino]-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine in 45 ml of ethanol was slowly added a solution of 13.2 g of phosphoric acid in an equal volume of ethanol. An exothermic reaction with vigorous foaming took place. The resulting slurry was refluxed for 1 hour and then cooled. The solid was separated by filtration, washed with ethanol and with absolute ethanol, and then dried at 50° C. under reduced pressure to give 6-[2-(1-pyrrolidinyl)ethylamino]-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine diphosphate.

reactant | 6-[2-(1-pyrrolidinyl)ethylamino]-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine | 15.0 g | N1(CCCC1)CCNC1=NN2C(C=3CCCCC13)=NN=C2 | C15H22N6
reactant | phosphoric acid | 13.2 g | P(O)(O)(O)=O | H3O4P
solvent | ethanol | 45 ml | C(C)O | C2H6O
product | 6-[2-(1-pyrrolidinyl)ethylamino]-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine diphosphate | OP(O)(=O)OP(=O)(O)O.N1(CCCC1)CCNC1=NN2C(C=3CCCCC13)=NN=C2 | InChI=1S/C15H22N6.H4O7P2/c1-2-6-13-12(5-1)14(19-21-11-17-18-15(13)21)16-7-10-20-8-3-4-9-20;1-8(2,3)7-9(4,5)6/h11H,1-10H2,(H,16,19);(H2,1,2,3)(H2,4,5,6)
